US04400519
When 13.26 g of benzil-di-(β-bromoethyl)ketal and 10.63 g of sodium 3,3-dimethylglutarimide were reacted and worked up in the same way as in Example 4, 16.5 g (yield 95.8%) of benzil-di-(3,3-dimethyl glutarimidoethyl)ketal was obtained. Recrystallization from ethanol afforded crystals having a melting point of 130° C.

reactant | benzil-di-(β-bromoethyl)ketal | 13.26 g | BrCCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCBr | C18H18Br2O3
reactant | sodium 3,3-dimethylglutarimide | 10.63 g | CC1(CC(=O)NC(C1)=O)C.[Na]
product | benzil-di-(3,3-dimethyl glutarimidoethyl)ketal | 16.5 g, yield 95.8% | CC1(CC(=O)N(C(C1)=O)CCOC(C1=CC=CC=C1)(C(=O)C1=CC=CC=C1)OCCN1C(CC(CC1=O)(C)C)=O)C | C32H38N2O7
